US07569589B2
To a mixture of 3-(pyridine-3-ylmethyl)pyridine (0.700 g, 4.11 mmol) in anhydrous THF (20 mL) @ −78° C. under N2 was added LDA (3.43 mL, 1.8 M) dropwise. The mixture was stirred for 1 hr @ −78° C., and 3-[(6-bromopyridin-2-yl)(chloro)methyl]benzonitrile was added. The reaction was warmed to 0° C., and stirred for 2 hr. The resulting mixture was quenched with saturated aqueous NH4Cl, and extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4), filtered, and concentrated. The residue was purified by silica gel chromatography (1-4% MeOH in CH2Cl2) to give racemic 3-[1-(6-bromopyridin-2-yl)-2,2-dipyridin-3-ylethyl]benzonitrile. LRMS m/z (M+H) Calcd.: 441.0, found: 441.0. The racemic mixture was separated by ChiralPak AD (40% iPrOH in Hexanes+1 mL/L DEA to 80% iPrOH in Hexanes+1 mL/L DEA over 45 min). The first peak was enantiomer A of 3-[1-(6-bromopyridin-2-yl)-2,2-dipyridin-3-ylethyl]benzonitrile, and the second peak was enantiomer B of 3-[1-(6-bromopyridin-2-yl)-2,2-dipyridin-3-ylethyl]benzonitrile.

reactant | 3-(pyridine-3-ylmethyl)pyridine | 4.11 mmol, 0.700 g | N1=CC(=CC=C1)CC=1C=NC=CC1 | C11H10N2
reactant | LDA | 1.8 M, 3.43 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-[(6-bromopyridin-2-yl)(chloro)methyl]benzonitrile | BrC1=CC=CC(=N1)C(C=1C=C(C#N)C=CC1)Cl | C13H8BrClN2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | racemic 3-[1-(6-bromopyridin-2-yl)-2,2-dipyridin-3-ylethyl]benzonitrile | BrC1=CC=CC(=N1)C(C(C=1C=NC=CC1)C=1C=NC=CC1)C=1C=C(C#N)C=CC1 | C24H17BrN4
